US06410556B1
2-Amino-5-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (0.55 g, 1.42 mmol) and triethylamine (396 I, 2.84 mmol) was heated in acetonitrile (15 ml) under an atmosphere of nitrogen to 60° C. whereupon a solution of 2-chloromethyl-6-methoxy-benzoic acid methyl ester (0.32 g, 1.49 mmol) in acetonitrile (5 ml) was added dropwise over the course of 3 hours, keeping the reaction mixture at 60° C. The reaction was allowed to cool to room temperature and was left for 16 hours before the solvent was evaporated in vacuo. The product was purified by column chromatography (SiO2, Flash 40, ethyl acetate-petrol ether) to give 400 mg (53%) of 2-amino-5-(S)-(7-methoxy-1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-6-((S)-1-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-Amino-5-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 1.42 mmol, 0.55 g | C(C)(C)(C)OC(=O)C1=C(SC=2CN([C@@H](CC21)CN)[C@@H](C)C2=CC=CC=C2)N | C21H29N3O2S
reactant | triethylamine | 2.84 mmol | C(C)N(CC)CC | C6H15N
reactant | 2-chloromethyl-6-methoxy-benzoic acid methyl ester | 1.49 mmol, 0.32 g | COC(C1=C(C=CC=C1OC)CCl)=O | C10H11ClO3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-amino-5-(S)-(7-methoxy-1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-6-((S)-1-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 400 mg, 53% | C(C)(C)(C)OC(=O)C1=C(SC=2CN([C@@H](CC21)CN2C(C1=C(C=CC=C1C2)OC)=O)[C@@H](C)C2=CC=CC=C2)N | C30H35N3O4S
